US03935266
2.7 g of ε-(N-p-hydroxyphenylguanidino)caproic acid hemihydrate was dissolved in dilute hydrochloric acid and concentrated under reduced pressure. The residue was dissolved in 30 ml of N,N-dimethylformamide and to the solution kept at 0° to 5°C was added dropwise 0.96 ml of ethylchloroformate and then 1.39 ml of triethylamine. After the mixture was stirred for 15 minutes, 1.6 g of n-decylamine was added dropwise to the mixture at 0° to 5°C. Thereafter, the reaction was carried out in the same manner as in Example 1. The resultant reaction mixture was concentrated under reduced pressure and cold 1N sodium hydroxide was added to the residue to separate precipitated oily substance. The precipitated oily substance was washed with ether and extracted with chloroform after being turned acidic by addition of hydrochloric acid. The chloroform layer was washed with water and dried with sodium sulfate, followed by concentration. Recrystallization of the residue from chloroformether gave 2.8 g of ε-(N-p-hydroxyphenylguanidino) caproyl-n-decyl amide hydrochloride monohydrate having a melting point of 73° to 75°C. The yield was 60.8%.

reactant | ε-(N-p-hydroxyphenylguanidino)caproic acid hemihydrate | 2.7 g | O.OC1=CC=C(C=C1)N(C(=N)N)CCCCCC(=O)O.OC1=CC=C(C=C1)N(C(=N)N)CCCCCC(=O)O
reactant | hydrochloric acid | Cl | ClH
product | ε-(N-p-hydroxyphenylguanidino) caproyl-n-decyl amide hydrochloride monohydrate | 2.8 g, yield was 60.8% | O.Cl.OC1=CC=C(C=C1)N(C(=N)N)CCCCCC(=O)[N-]CCCCCCCCCC | InChI=1S/C23H40N4O2.ClH.H2O/c1-2-3-4-5-6-7-8-11-18-26-22(29)13-10-9-12-19-27(23(24)25)20-14-16-21(28)17-15-20;;/h14-17H,2-13,18-19H2,1H3,(H5,24,25,26,28,29);1H;1H2/p-1
